US07582629B2
2-Butyl-5-(4-chlorophenyl)-4-{[4-(difluoromethoxy)phenyl]amino}isothiazol-3(2H)-one 1,1-dioxide
2-Butyl-4-chloro-5-(4-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide (0.20 g, 0.60 mmol) and 4-(difluoromethoxy)-aniline (0.190 g, 1.20 mmol) were mixed in MeCN (2.5 mL). The mixture was heated in a microwave reactor at 130° C. for 15 mins, then additional 60 mins and then at 140° C. for 15 mins, then additional 30 mins. The mixture was evaporated and the residue was purified by column chromatography (ISOLUTE SI 20 g/70 mL), eluting with heptane, then DCM:heptane (25:75, then 50:50), to give the title compound (0.122 g, 45%); 1H NMR (400 MHz, CDCl3): δ 7.28 (s, 1H), 7.12 (d, 2H), 7.04 (d, 2H), 6.81 (d, 2H), 6.70 (d, 2H), 6.37 (t, 1H), 3.76 (t, 2H), 1.87-1.80 (m, 2H), 1.50-1.40 (m, 2H), 0.97 (t, 3H); 13C NMR (100 MHz, CDCl3): δ 158.9, 148.0, 135.6, 133.1, 131.3, 130.3, 128.4, 123.7, 123.1, 120.1, 115.5 (t), 110.1, 40.3, 30.1, 20.0, 13.4; Mass Spectrum: M−H+ 455.

reactant | 2-Butyl-4-chloro-5-(4-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide | 0.60 mmol, 0.20 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=C(C=C1)Cl)(=O)=O | C13H13Cl2NO3S
reactant | 4-(difluoromethoxy)-aniline | 1.20 mmol, 0.190 g | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
solvent | MeCN | 2.5 mL | CC#N | C2H3N
product | 2-Butyl-5-(4-chlorophenyl)-4-{[4-(difluoromethoxy)phenyl]amino}isothiazol-3(2H)-one 1,1-dioxide | 0.122 g, 45% | C(CCC)N1S(C(=C(C1=O)NC1=CC=C(C=C1)OC(F)F)C1=CC=C(C=C1)Cl)(=O)=O | C20H19ClF2N2O4S
